US06933387B2
a) 2-[(2,3-Difluoro-phenyl)-hydrazono]-propionic acid ethyl ester
The title compound, EI-MS: m/e=242.1 (M+), was prepared in accordance with the general method of example 25b) from 2,3-difluorophenyl hydrazine and ethyl pyruvate.

reactant | 2,3-difluorophenyl hydrazine | FC1=C(C=CC=C1F)NN | C6H6F2N2
reactant | ethyl pyruvate | C(C(=O)C)(=O)OCC | C5H8O3
product | 2-[(2,3-Difluoro-phenyl)-hydrazono]-propionic acid ethyl ester | C(C)OC(C(C)=NNC1=C(C(=CC=C1)F)F)=O | C11H12F2N2O2
